US09428470B2
C) Ethyl 1-(3-(2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylate
A mixture of 3-(2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid (820 mg), ethyl piperidine-4-carboxylate (0.366 mL), WSC (497 mg), HOBt (350 mg), triethylamine (0.362 mL), and DMF (8 mL) was stirred overnight at room temperature. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (760 mg).

reactant | 3-(2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid | 820 mg | COC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)O)CC(OC)=O)=O | C18H21NO8
reactant | ethyl piperidine-4-carboxylate | 0.366 mL | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | WSC | 497 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 350 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.362 mL | C(C)N(CC)CC | C6H15N
product | Ethyl 1-(3-(2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylate | 760 mg | COC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)N1CCC(CC1)C(=O)OCC)CC(OC)=O)=O | C26H34N2O9
